US07781478B2
1-Ethyl-3-formyl-1H-indole-6-carboxylic acid methyl ester (100 mg, 0.42 mmol), TOSMIC (100 mg, 0.52 mmol), K2CO3 (178 mg, 1.29 mmol), and MeOH (800 μL) are heated at 80° C. overnight. The reaction mixture is then partitioned between H2O and ether. After drying and concentrating the organic phase, the product is purified by silica gel chromatography (EtOAc/CH2Cl2, 10/90) to give methyl 1-ethyl-3-oxazol-5-yl-1H-indole-6-carboxylate (26 mg, 23%) as an off-white solid.

reactant | 1-Ethyl-3-formyl-1H-indole-6-carboxylic acid methyl ester | 0.42 mmol, 100 mg | COC(=O)C1=CC=C2C(=CN(C2=C1)CC)C=O | C13H13NO3
reactant | TOSMIC | 0.52 mmol, 100 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | K2CO3 | 1.29 mmol, 178 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 800 μL | CO | CH4O
product | methyl 1-ethyl-3-oxazol-5-yl-1H-indole-6-carboxylate | 26 mg, 23% | C(C)N1C=C(C2=CC=C(C=C12)C(=O)OC)C1=CN=CO1 | C15H14N2O3
